US05591762
4'-[[2-n-Propyl-4-methyl-6-(1-methyl-imidazolin-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid
Prepared by heating of tert.butyl 4'-[[2-n-propyl-4-methyl-6-[2-(N-methylamino)-ethylaminocarbonyl]-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate in phosphorus oxychloride and isolating analogously to Example 151.

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-[2-(N-methylamino)-ethylaminocarbonyl]-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C(=O)NCCNC | C33H40N4O3
solvent | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4'-[[2-n-Propyl-4-methyl-6-(1-methyl-imidazolin-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N(CCN2)C | C29H30N4O2
